*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* MURATA P/N : 1255AY-3R3N
* Property : L = 3.0[uH]
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 10kHz - 3GHz
*   Temperature = 20 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT 1255AY-3R3N port1 port2
C1 port1 port2 5.73e-13
L2 port1 1 3.41e-6
R2 1 port2 1.01e-2
R3 port1 port2 6.95e+3
C4 port1 2 1.86e-12
L4 2 3 4.73e-8
R4 3 port2 2.03e+1
C5 port1 4 6.15e-13
L5 4 5 2.06e-8
R5 5 port2 3.00e+1
C6 port1 6 2.50e-13
L6 6 7 1.68e-8
R6 7 port2 8.45e+1
C7 port1 8 2.50e-11
L7 8 9 5.81e-5
R7 9 port2 6.26e+3
L8 port1 10 3.16e-5
R8 10 port2 1.07e+2
L9 port1 11 5.89e-5
R9 11 port2 3.15e+1
.ENDS 1255AY-3R3N
*----------------------------------------------------------------------
